### PR TITLE
[IK]: API for sigmaR

### LINKED ISSUE #1241: [IK]: Make API for `sigmaR`
## Description

Mimic API in Mathlib.NumberTheory.ArithmeticFunction.Misc for `sigma` up to `sigmaR`

## Blueprint

https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/IK-chapter.html#sigmaR

## Zulip

TBA

### PR DESCRIPTION
**Pull request by prestontranbarger**
closes #1241

### CODE REVIEW

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 1]
```diff
@@ -358,15 +358,185 @@ scoped[ArithmeticFunction] notation "σᴿ" => ArithmeticFunction.sigmaR
...
+  "sigmaR_natOne_apply"
+  (title := "sigmaR-natOne-apply")
+  (statement := /--
+    We have that $\sigma^R_1(n)=\sum_{d\mid n}d$.
+  -/)
+  (proof := /--
+    Applying the definition we have
+    $$\sigma^R_1(n)=\sum_{d\mid n}d^1=\sum_{d\mid n}d.$$
+  -/)]
+lemma sigmaR_natOne_apply (n : ℕ) : σᴿ 1 n = ∑ d ∈ divisors n, d := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Rename to tau on RHS?

Comment (AlexKontorovich) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: In fact, maybe this one can be removed and the one below is the "main" API

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 2]
```diff
@@ -375,6 +545,29 @@ lemma sigmaR_natCast (k n : ℕ) :
...
+    simp only [powR, ArithmeticFunction.coe_mk]
+    rcases Nat.eq_zero_or_pos m with rfl | hm
+    · simp only [zero_mul, ↓reduceIte, mul_ite, mul_zero, ite_self]
+    rcases Nat.eq_zero_or_pos n with rfl | hn
+    · simp only [mul_zero, ↓reduceIte]
+    have hmn_pos : m * n ≠ 0 := Nat.mul_ne_zero hm.ne' hn.ne'
+    simp only [hm.ne', hn.ne', hmn_pos, if_false]
+    push_cast
+    exact Complex.natCast_mul_natCast_cpow m n ν
+
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]:
```suggestion
  refine ⟨by simp [powR], fun {m n : ℕ} mCn => ?_⟩
  simp only [powR, ArithmeticFunction.coe_mk]
  rcases Nat.eq_zero_or_pos m with rfl | hm
  · simp only [zero_mul, ↓reduceIte, mul_ite, mul_zero, ite_self]
  rcases Nat.eq_zero_or_pos n with rfl | hn
  · simp only [mul_zero, ↓reduceIte]
  have hmn_pos : m * n ≠ 0 := Nat.mul_ne_zero hm.ne' hn.ne'
  simp only [hm.ne', hn.ne', hmn_pos, if_false]
  push_cast
  exact Complex.natCast_mul_natCast_cpow m n ν
```

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 3]
```diff
@@ -390,6 +583,40 @@ lemma sigmaR_eq_zeta_mul_powR (ν : ℂ) : sigmaR ν = (zeta : ArithmeticFunctio
...
+    For fixed $s$ function $n\mapsto\sigma^R_s(n)$ is multiplicative.
+  -/)
+  (proof := /--
+    Recall from Lemma \ref{sigmaR_eq_zeta_mul_powR} that $\sigma^R$ is $\zeta$ convolved with
+    Definition \ref{powR}. Since both of these are multiplicative functions, their convolution is
+    also multiplicative.
+  -/)]
+lemma isMultiplicative_sigmaR {s : ℂ} :
+    IsMultiplicative (σᴿ s) := by
+  rw[sigmaR_eq_zeta_mul_powR]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]:
```suggestion
  rw [sigmaR_eq_zeta_mul_powR]
```

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 4]
```diff
@@ -390,6 +583,40 @@ lemma sigmaR_eq_zeta_mul_powR (ν : ℂ) : sigmaR ν = (zeta : ArithmeticFunctio
...
+  exact IsMultiplicative.mul (IsMultiplicative.natCast isMultiplicative_zeta) isMultiplicative_powR
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]:
```suggestion
  exact isMultiplicative_zeta.natCast.mul  isMultiplicative_powR
```

**Review by AlexKontorovich — APPROVED** [review]
Thanks!

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 1 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: tau is ∑ d ∈ divisors n, d^0 not ∑ d ∈ divisors n, d

**Comment by prestontranbarger** [comment]
#1292 had a TeX error, I have fixed this and added in the revisions discussed during the seminar

**Review by AlexKontorovich — APPROVED** [review]
Ok thanks, let's hope this fixes it!
